US08217177B2
4-bromo-1-(tetrahydrofuran-3-yl)-1H-pyrazole
The title compound was prepared in the same manner as 4-bromo-1-(cyclobutyl)-1H-pyrazole, but using tetrahydrofuran-3-yl methanesulfonate (prepared according to procedures known in the art).

reactant | 4-bromo-1-(cyclobutyl)-1H-pyrazole | BrC=1C=NN(C1)C1CCC1 | C7H9BrN2
reactant | tetrahydrofuran-3-yl methanesulfonate | CS(=O)(=O)OC1COCC1 | C5H10O4S
product | 4-bromo-1-(tetrahydrofuran-3-yl)-1H-pyrazole | BrC=1C=NN(C1)C1COCC1 | C7H9BrN2O
